US07960369B2
4-[(3-chlorobenzo[b]thien-2-yl) methoxy]benzenepropanoic acid
A mixture of methyl 4-[(3-chlorobenzo[b]thien-2-yl) methoxy]benzenepropanoate (1.5 g, 4.0 mmol), tetrahydrofuran (20 mL), methanol (5 mL), water (2 mL) and lithium hydroxide monohydrate (0.34 g, 8.0 mmol) was stirred overnight at room temperature. The reaction mixture was neutralized with 0.5N hydrochloric acid, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=3:1) to give the title compound (1.3 g, yield 94%).

reactant | methyl 4-[(3-chlorobenzo[b]thien-2-yl) methoxy]benzenepropanoate | 4.0 mmol, 1.5 g | ClC=1C2=C(SC1COC1=CC=C(C=C1)CCC(=O)OC)C=CC=C2 | C19H17ClO3S
reactant | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
reactant | lithium hydroxide monohydrate | 8.0 mmol, 0.34 g | O.[OH-].[Li+]
reactant | hydrochloric acid | 0.5N | Cl | ClH
solvent | water | 2 mL | O | H2O
solvent | methanol | 5 mL | CO | CH4O
product | 4-[(3-chlorobenzo[b]thien-2-yl) methoxy]benzenepropanoic acid | 1.3 g, yield 94% | ClC=1C2=C(SC1COC1=CC=C(C=C1)CCC(=O)O)C=CC=C2 | C18H15ClO3S
